US07855294B2
1) 8-Benzyl-8-aza-bicyclo[3.2.1]octan-3-one
25 g of tropinone was dissolved in 100 mL of chloroform, and 50 mL of chloroethyl chloroformate was added thereto and stirred at room temperature for 6 hours. The reaction liquid was concentrated, 100 mL of methanol was added thereto, and heated overnight under reflux. The reaction liquid was cooled to room temperature and concentrated, and the resulting crude product was dissolved in 80 mL of N-methylpyrrolidone. 43 mL of benzyl bromide and 99 g of potassium carbonate were added thereto and stirred overnight at room temperature. The reaction liquid was poured into water, and extracted three times with ethyl acetate. The organic layer was washed with water and saturated saline water, dried with anhydrous magnesium sulfate, and the solvent was evaporated off under reduced pressure to obtain 29.5 g of the entitled compound as a pale yellow liquid.

reactant | tropinone | 25 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | chloroethyl chloroformate | 50 mL | ClC(=O)OCCCl | C3H4Cl2O2
reactant | water | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Benzyl-8-aza-bicyclo[3.2.1]octan-3-one | 29.5 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
